US05606051
Allyl (5R, 6S)-6-[(R)-1-hydroxyethyl]-2-(1,5-diethylpyrazol-3-yl)carbapen-2-em-3-carboxylate (267 mg) in dichloromethane (2 ml) and ethyl acetate (2 ml) under argon were treated with sodium 2-ethylhexanoate (135 mg), followed by triphenylphosphine (17.5 mg), followed by tetrakis(triphenylphosphine)palladium(0) (28.3 mg) and the mixture was stirred for 45 min. Diethyl ether (100 ml) was then added, and after stirring for 30 minutes the mixture was centrifuged. The residual solid was washed with diethyl ether, and dried under a stream of argon. The solid was then taken up in a small amount of water and chromatographed on DIAION HP20SS resin, eluting with water, followed by water/THF mixtures; 2%, 3%, 4% and 6% THF. Fractions were monitored by HPLC, and those containing the product were combined, reduced in volume and freeze-dried to give sodium (5R, 6S)-6-[(R)-1-hydroxyethyl]-2-(1,5-diethylpyrazol-3-yl)carbapen-2-em-3-carboxylate as a solid (169 mg); νmax (KBr) 1752, 1593, 1433, 1382, 1288, and 1258 cm-1 ; λmax (H2O)/nm 298 (εdm3 mol-1 cm-1 9,031), 260 (sh) (ε5853); δ(D2O) 1.19 (t, J 7.6 Hz), 1.27 (d, J ca. 6.8 Hz), 1.28 (d, J ca. 7.3 Hz) (together 9H), 2.60 (2H, q, J 7.5 Hz), 3.18 (2H, d, J 9.8Hz), 3.46 (1H, dd, J 2.7 & 5.9 Hz), 4.05 (2H, q, J 7.2 Hz), 4.14-4,26 (2H, m), 6.48 (1H, s) ppm; [Found (electrospray ms) m/z 342 (MH)+ ].

reactant | Allyl (5R, 6S)-6-[(R)-1-hydroxyethyl]-2-(1,5-diethylpyrazol-3-yl)carbapen-2-em-3-carboxylate | 267 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=NN(C(=C2)CC)CC)C(=O)OCC=C)C1=O | C19H25N3O4
reactant | sodium 2-ethylhexanoate | 135 mg | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | triphenylphosphine | 17.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 28.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | sodium (5R, 6S)-6-[(R)-1-hydroxyethyl]-2-(1,5-diethylpyrazol-3-yl)carbapen-2-em-3-carboxylate | 169 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=NN(C(=C2)CC)CC)C(=O)[O-])C1=O.[Na+] | InChI=1S/C16H21N3O4.Na/c1-4-9-6-11(17-18(9)5-2)10-7-12-13(8(3)20)15(21)19(12)14(10)16(22)23;/h6,8,12-13,20H,4-5,7H2,1-3H3,(H,22,23);/q;+1/p-1/t8-,12-,13-;/m1./s1
